Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
cats / cherries
 
Attending: ___
 
Chief Complaint:
lightheadedness, double vision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of obesity, HTN,
GERD, postsurgical abdominal wall myomectomy, who presents for
evaluation of 5 day history of headache and dizziness.

Ms. ___ had generally been in her usual state of health until
5 days prior to presentation, ___, when she began developing
lightheadedness. This started gradually that day. It was present
regardless of position, and very low grade. It was not severe
enough to impact her day, and she was able to do all the things
that she wanted to do.  She actually thought she was dehydrated
because she had been on the ketogenic diet for 3 weeks (and lost
30 pounds since ___. 

The next day, she continued to have this low grade
lightheadedness, but then began having a new sensation of
dizziness. She describes the dizziness as a combination of 
motion
sensitivity, feeling unsteady on her feet, and "inability to
focus" with her eyes. No room spinning vertigo. Dizziness 
started
gradually that day, and has been persistent since. It is
exacerbated when turning her head to the right. It is improved
when seated or lying supine, worsened with standing upright.  
She
continued to think that this was related to dehydration from her
ketogenic diet, and began drinking multiple vitamin waters per
day.  She feels that she has had adequate food and liquid 
intake.

She continued to have the dizziness through the weekend. Two 
days
ago, on ___, she continued to feel this way, so she went to
___. She reports they had bloodwork done and
an infectious workup, which revealed a UTI. She was started on
Macrobid x10 day course. She did not improve, and therefore came
to our emergency department for further evaluation.

Of note, over the last few days, she has had a number of other
symptoms:
-Low-grade pain over the right temporal, maxillary, and frontal
sinus area.  Pain is described as a pressure sensation and a
tingling.  It is very low-grade, described as 1 out of 10 in
severity.
-Blurry vision when looking to the right, without loss of vision
or diplopia.
-Constant nausea without vomiting.

Prior to the last several days, she has been generally in her
usual state of health, apart from recently starting the 
ketogenic
diet.  She was on a ketogenic diet since ___, and she has 
lost
20 pounds over that time.  She otherwise denies any recent
illnesses, denies any new or missed medications apart from
recently starting Macrobid, denies any fever/chills.  

Notably, she does have a history of migraine with aura.  She has
had 2 migraines in her life, one last year and the other ___ years
ago. She first develops a sensation of a "silver shimmer" (she 
is
not sure whether it is binocular or monocular), followed by a
holocephalic throbbing headache, associated with photophobia.

She notes binocular horizontal diplopia on right gaze, but 
denies
pain with extraocular movements, blurry/decreased vision,
photophobia, or other eye complaints. She also notes nausea but
no vomiting, as well as parenthesias of both hands which has 
been
going on for years intermittently, but denies episodes of focal
weakness or numbness, or bowel/bladder incontinence.  She denies
fatigue, muscle weakness, ptosis, or dysphagia. She denies
headache, transient visual obscurations, tinnitus. 

 
Past Medical History:
Obesity
Postsurgical abdominal wall hernia after myomectomy
Hypertension
Recently diagnosed UTI
GERD

 
Social History:
___
Family History:
Family Hx: Cousin with autoimmune disease (? Lupus or
Lupus-like), and niece with autoimmune disease (unsure which). 
No
known family hx of multiple sclerosis or demyelinating disease.

 
Physical Exam:
Physical Exam:
Vitals: Temperature 97.2, heart rate 91, blood pressure 154/79,
respiratory rate 16, oxygen 100% on room air
___: Awake, cooperative, obese, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands.  The pt had good knowledge of current events. There 
was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam performed, revealed blurring of the disc margins of the
right eye, ?Subtle blurring of the disc margins of the left eye. 

Visual acuity OD (sc): ___-  OS (sc): ___  No red 
desaturation.
III, IV, VI: Extraocular motility: -1 adduction deficit of left 
eye with slow
adducting saccades (non-fatiguable) with abducting (dissociated)
nystagmus in the right eye, consistent with left-sided INO, and
gaze evoked nystagmus on upgaze bilaterally. Otherwise EOM are 
intact. There is
also sustained vertical nystagmus on upgaze. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2+  2+  2+   2+  trace
R  2+  2+  2+   2+  trace
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
MR head w/wo contrast ___: 
1. Small focus of T2 signal abnormality, with subtle enhancement
posterior pons, in the area of MLF, consider demyelination, 
subacute infarct. 
2. Additional punctate periventricular nonenhancing lesion right 
parietal lobe.  No juxta cortical or other T2 signal 
abnormalities. 
3. Periapical inflammation posterior most left maxillary molar, 
large crown cavity. 

CTA head w/wo contrast ___: No hemorrhage, edema, or mass.
Normal vasculature, patent dural venous sinuses.

 
Brief Hospital Course:
Ms ___ is a ___ yo F with h/o HTN, obesity and migraines with 
aura who presented to ___ with dizziness x 5 days and 
binocular horizontal diplopia on right gaze, found to have 
left-sided INO with abducting (dissociated) nystagmus in the 
right eye and gaze evoked nystagmus on upgaze. 

She was sent to ___ clinic and her ophthalmic 
exam confirmed left sided INO with abducting nystagmus in right 
eye. Her exam is otherwise unremarkable with good visual acuity, 
no rAPD, full colors, and no disk edema on dilated fundus exam.  
The right optic nerve is slightly elevated nasally, possibly 
representing disk drusen.  

MRI brain done on arrival revealed a small focus of T2 
hyperintensity in the left posterior midbrain/pons adjacent to 
the MLF (slightly dorsal) which likely explains her left-sided 
INO, and an additional punctate periventricular non-enhancing 
lesion in the right parietal lobe.  Though subtle, these 
findings in conjunction with patient's age/demographic raise 
suspicion for demyelinating disease. She also notes family 
history of autoimmune diseases, and parasthesias in both hands 
(though this
may be attributed to HCTZ). 

Highest on the differential is a demyelinating disease such as 
MS though does not meet full criteria at this time. The patient 
was recommended an LP for further diagnostic information however 
the patient deferred having an LP done while inpatient and team 
agreed given she is amenable to follow up and it is not urgent. 
Given MRI findings, infarct may also be on the differential, 
however imaging and clinical case was reviewed with entirety of 
stroke faculty at ___ and conclusion was that picture is not 
consistent with infarct. We therefore recommend follow up with 
MS specialists outpatient and outpatient LP. Patient opted for 
discharge at this point with plan for close follow up with neuro 
ophthalmology and the multiple ___ clinic. We will 
coordinate her ___ clinic appointment with her appointment at the 
___ clinic. 

 
Medications on Admission:
1.  Hydrochlorothiazide 25 mg PO DAILY  
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H  
3.  Omeprazole 20 mg PO DAILY  
 
Discharge Medications:
1.  Hydrochlorothiazide 25 mg PO DAILY  
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H  
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Clinically Isolated Syndrome/Radiographically Isolated Syndrome

 
Discharge Condition:
mental status: baseline. awake alert and oriented, appropriately 
conversant
ambulatory status: fully ambulatory

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from 
___ until ___ for 5 days of feeling lightheaded and 
found to have some double vision when looking up and to the 
right on neurologic exam. You were sent to ophthalmology clinic 
for a thorough assessment of your eyes and it was found that 
your visual symptoms may be related to lesion in your brain that 
could be associated with MS though it does not fully meet 
criteria for the diagnosis at this point. As a result we would 
like you to follow up closely with our Multiple Sclerosis 
specialists in clinic outpatient at which point we would like 
you to have a lumbar puncture which will help give us more 
diagnostic information. It was our pleasure caring for you. 
Thank you for involving us in your care.
 
Sincerely,
___ Neurology
 

 
Followup Instructions:
___